US09193723B2
2-(4-cyanobenzylamino)-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide
To a solution of 2-bromo-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide (165 mg, 0.511 mmol) in acetonitrile (2553 μl) was added 4-cyanobenzylamine (67.5 mg, 0.511 mmol). The mixture was heated in a microwave (Biotage Initiator) at 180° C. for 30 minutes. The heating was repeated again after another equivalent of 4-cyanobenzylamine was added. The reaction mixture was purified by normal phase chromatography to provide the title compound.

reactant | 2-bromo-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide | 0.511 mmol, 165 mg | BrC=1SC(=CN1)C(=O)NC=1C=CC=2N(C1)C=CN2 | C11H7BrN4OS
reactant | 4-cyanobenzylamine | 0.511 mmol, 67.5 mg | C(#N)C1=CC=C(CN)C=C1 | C8H8N2
solvent | acetonitrile | 2553 μl | C(C)#N | C2H3N
product | 2-(4-cyanobenzylamino)-N-(imidazo[1,2-a]pyridin-6-yl)thiazole-5-carboxamide | C(#N)C1=CC=C(CNC=2SC(=CN2)C(=O)NC=2C=CC=3N(C2)C=CN3)C=C1 | C19H14N6OS
